US07737149B2
1.8M LDA in THF (30.0 mL, 54.00 mmol) was added to tetrahydrofuran (60 mL) and cooled to −78° C. Acetonitrile (2.82 mL, 54.00 mmol) was added drop-wise over 15 mins. A solution of methyl 3-(3-(methylcarbamoyl)phenyl)propanoate (2.99 g, 13.5 mmol) in tetrahydrofuran (10 ml) was added. The resulting mixture stirred at −78° C. for 10 mins. The reaction mixture was warmed to 5° C. and stirred for 30 mins, hydrazine hydrochloride (3.70 g, 54.00 mmol) and ethanol (60.0 mL) were added and the reaction mixture heated at 80° C. for 18 h. The reaction mixture was cooled and evaporated to dryness. The residue was dissolved in methanol (50 ml) and the crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH fractions were evaporated to dryness to afford an oil. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 10% MeOH in DCM. Pure fractions were evaporated to dryness to afford 3-(2-(5-amino-1H-pyrazol-3-yl)ethyl)-N-methylbenzamide (0.450 g, 13.64%) as a yellow oil.

reactant | LDA | 1.8M | [Li+].CC(C)[N-]C(C)C
reactant | Acetonitrile | 54.00 mmol, 2.82 mL | C(C)#N | C2H3N
reactant | methyl 3-(3-(methylcarbamoyl)phenyl)propanoate | 13.5 mmol, 2.99 g | CNC(=O)C=1C=C(C=CC1)CCC(=O)OC | C12H15NO3
reactant | hydrazine hydrochloride | 54.00 mmol, 3.70 g | Cl.NN
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | THF | 54.00 mmol, 30.0 mL | C1CCOC1 | C4H8O
solvent | ethanol | 60.0 mL | C(C)O | C2H6O
product | 3-(2-(5-amino-1H-pyrazol-3-yl)ethyl)-N-methylbenzamide | 0.450 g, 13.64% | NC1=CC(=NN1)CCC=1C=C(C(=O)NC)C=CC1 | C13H16N4O
